US05780642
This compound was prepared by reacting 4-hydroxybenzonitrile with valeryl chloride in the presence of triethylamine to give 4-cyanophenyl valerate which was subjected to a Fries rearrangement with aluminium chloride to give 4-hydroxy-3-valerylbenzonitrile which was reduced with sodium borohydride to give the title compound.

reactant | 4-hydroxybenzonitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
reactant | valeryl chloride | C(CCCC)(=O)Cl | C5H9ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-cyanophenyl valerate | C(CCCC)(=O)OC1=CC=C(C=C1)C#N | C12H13NO2
